* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.01 - Teoría de Circuitos\Cursada\Trabajos Prácticos\TC-Grupo6\TP3\Ejercicio2-DiseñoDeFiltros\Simulacion\Draft1.asc
R3 N004 N005 1k
C3 HP_or N005 100n
V3 N004 0 AC 1
L1 HP_or 0 7m
R4 N006 N007 957
C4 N008 N007 47n
V4 N006 0 AC 1
L2 N008 0 25m
R5 N009 N010 957
C5 N011 N010 47n
V5 N009 0 AC 1
L3 N011 0 5.38m
R6 N012 N013 957
C6 N014 N013 47n
V6 N012 0 AC 1
L4 N014 0 15m
R1 N015 N016 1k
C1 hp_gira N016 100n
V1 N015 0 AC 1
XU1 N030 N026 vcc vee N026 LM324 LM324
V9 vcc 0 9
V10 0 vee 9
R9 N026 hp_gira 62
R10 0 N030 10k
C9 N030 hp_gira 10n
R11 N001 N002 850
C10 N003 N002 100n
V11 N001 0 AC 1
L5 N003 0 7m
R2 N017 N018 957
C2 N019 N018 47n
V2 N017 0 AC 1
XU2 N031 N027 vcc vee N027 LM324 LM324
R12 N027 N019 62
R13 0 N031 10k
C11 N031 N019 10n
R7 N020 N021 957
C7 N022 N021 47n
V7 N020 0 AC 1
XU3 N032 N028 vcc vee N028 LM324 LM324
R8 N028 N022 62
R14 0 N032 10k
C8 N032 N022 10n
R15 N023 N024 957
C12 N025 N024 47n
V8 N023 0 AC 1
XU4 N033 N029 vcc vee N029 LM324 LM324
R16 N029 N025 62
R17 0 N033 10k
C13 N033 N025 10n
;ac dec 1000 1 1Meg
* HP
;ac dec 1000 1 1Meg
* LP
* 910+47
* BP
* BR
;ac dec 1000 1 1Meg
* HP
.ac dec 1000 100 1Meg
* HP
;ac dec 1000 1 1Meg
;ac dec 1000 1 1Meg
;ac dec 1000 1 1Meg
.lib Germosub/LM324.lib
.backanno
.end
